US05073561
Step 2--Preparation of 3-(Methoxypropyl)-3-pyridinylmethanol
Following the general method of Example 1, 21.7 g (0.2 mol) of 4-chloro-1-methoxypropane and 21.4 g (0.2 mol) of pyridine-3-carboxaldehyde were converted to 18.87 g (52%) of (4-methoxypropyl-3-pyridinyl)methanol.

reactant | pyridine-3-carboxaldehyde | 0.2 mol, 21.4 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | (4-methoxypropyl-3-pyridinyl)methanol | 18.87 g | COCCCC1=C(C=NC=C1)CO | C10H15NO2
product | 3-(Methoxypropyl)-3-pyridinylmethanol | COCCCC1(CN=CC=C1)CO | C10H17NO2
